US05677305
First, 9.007 g of 7-fluoro-6-nitro-1,4-dihydroquinoxaline-2,3-dione, 7.611 g of 4-hydroxypyridine, and 5.219 g of powdered potassium hydroxide were added to 120 ml of dry dimethylsulfoxide. The mixture was stirred at 130° C. for 2 hours in a nitrogen atmosphere. Then, 50 ml of ice water and 30 ml of 4N hydrochloric acid were added to the reaction mixture so as to make it weakly acidic (pH 3 to 4). The resultant yellow precipitate was filtered and washed with water. The precipitate was dissolved by heating in a mixture containing 560 ml of water and 56 ml of conc. aqueous ammonia. One gram of activated carbon was added to the resultant mixture, stirred, and filtered. The filtrate was neutralized with conc. hydrochloric acid and ice-cooled. The precipitated crystals were then filtered and washed with water, methanol, and ethanol, successively. The resultant crystals were dried to give 7.56 g of 6-nitro-7-(4-oxo-4H-pyridin-1-yl)-1,4-dihydroquinoxaline-2,3-dione (hereinafter, abbreviated as Ia).

reactant | 7-fluoro-6-nitro-1,4-dihydroquinoxaline-2,3-dione | 9.007 g | FC1=C(C=C2NC(C(NC2=C1)=O)=O)[N+](=O)[O-] | C8H4FN3O4
reactant | 4-hydroxypyridine | 7.611 g | OC1=CC=NC=C1 | C5H5NO
reactant | potassium hydroxide | 5.219 g | [OH-].[K+]
reactant | hydrochloric acid | 4N, 30 ml | Cl | ClH
solvent | dimethylsulfoxide | 120 ml | CS(=O)C | C2H6OS
product | 6-nitro-7-(4-oxo-4H-pyridin-1-yl)-1,4-dihydroquinoxaline-2,3-dione | 7.56 g | [N+](=O)([O-])C=1C=C2NC(C(NC2=CC1N1C=CC(C=C1)=O)=O)=O | C13H8N4O5
